* SPICE3 file created from CP.ext - technology: sky130A
.include sky130nm.lib
.option scale=0.01u

XM1000 a_174_531# a_127_486# a_248_475# VDD sky130_fd_pr__pfet_01v8 w=1800 l=15
+  ad=59400 pd=3728.85 as=47294.2 ps=2895.72
XM1001 GND a_340_202# a_462_191# GND sky130_fd_pr__nfet_01v8 w=480 l=15
+  ad=15785.8 pd=1205.27 as=10416.3 ps=592.994
XM1002 a_248_475# a_134_73# Out VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1103.53 pd=67.5667 as=1386 ps=150
XM1003 a_134_73# Down GND GND sky130_fd_pr__nfet_01v8 w=36 l=15
+  ad=1188 pd=138 as=1183.94 ps=90.395
XM1004 VDD ENb a_31_494# VDD sky130_fd_pr__pfet_01v8 w=60 l=15
+  ad=2023.9 pd=185.854 as=2340 ps=198
XM1005 a_248_475# Down a_248_427# VDD sky130_fd_pr__pfet_01v8 w=540 l=15
+  ad=14188.3 pd=868.715 as=17820 ps=1146
XM1006 a_258_74# Up GND GND sky130_fd_pr__nfet_01v8 w=36 l=15
+  ad=1188 pd=138 as=1183.94 ps=90.395
XM1007 GND a_340_202# a_340_202# GND sky130_fd_pr__nfet_01v8 w=44 l=15
+  ad=1447.03 pd=110.483 as=1452 ps=154
XM1008 a_462_143# a_462_143# VDD VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1386 pd=150 as=1416.73 ps=130.098
XM1009 a_174_531# a_127_486# a_127_486# VDD sky130_fd_pr__pfet_01v8 w=44 l=15
+  ad=1452 pd=91.1497 as=1452 ps=154
XM1010 Out Up a_462_191# GND sky130_fd_pr__nfet_01v8 w=42 l=15
+  ad=1386 pd=150 as=911.424 ps=51.887
XM1011 a_248_427# a_248_427# GND GND sky130_fd_pr__nfet_01v8 w=42 l=15
+  ad=1386 pd=150 as=1381.26 ps=105.461
XM1012 a_462_191# a_258_74# a_462_143# GND sky130_fd_pr__nfet_01v8 w=540 l=15
+  ad=11718.3 pd=667.119 as=17820 ps=1146
XM1013 a_258_74# Up VDD VDD sky130_fd_pr__pfet_01v8 w=72 l=15
+  ad=2376 pd=210 as=2428.68 ps=223.024
XM1014 a_134_73# Down VDD VDD sky130_fd_pr__pfet_01v8 w=72 l=15
+  ad=2376 pd=210 as=2428.68 ps=223.024
C0 a_258_74# VDD 0.18fF
C1 VDD Up 0.21fF
C2 a_248_427# Out 0.00fF
C3 a_258_74# Up 0.09fF
C4 a_462_191# a_340_202# 0.01fF
C5 a_134_73# Down 0.12fF
C6 Down ENb 0.00fF
C7 a_462_191# a_462_143# 0.72fF
C8 a_134_73# VDD 0.16fF
C9 a_248_475# a_248_427# 0.58fF
C10 VDD ENb 0.01fF
C11 a_174_531# a_248_427# 0.25fF
C12 a_134_73# a_258_74# 0.05fF
C13 a_134_73# Up 0.41fF
C14 VDD Out 1.29fF
C15 a_462_191# a_248_427# 0.02fF
C16 a_127_486# Down 0.03fF
C17 a_462_143# a_248_427# 0.01fF
C18 Out Up 0.03fF
C19 a_127_486# VDD 0.05fF
C20 a_174_531# Down 0.02fF
C21 a_248_475# VDD 1.18fF
C22 a_174_531# VDD 2.61fF
C23 a_340_202# VDD 0.02fF
C24 a_340_202# a_258_74# 0.13fF
C25 a_340_202# Up 0.02fF
C26 a_462_191# VDD 0.13fF
C27 a_134_73# Out 0.05fF
C28 a_174_531# a_31_494# 0.12fF
C29 a_462_143# VDD 0.23fF
C30 a_462_191# a_258_74# 0.00fF
C31 a_462_191# Up 0.09fF
C32 a_258_74# a_462_143# 0.02fF
C33 a_462_143# Up 0.08fF
C34 a_127_486# ENb 0.01fF
C35 a_248_427# Down 0.00fF
C36 a_134_73# a_248_475# 0.02fF
C37 a_248_427# VDD 0.14fF
C38 a_134_73# a_174_531# 0.01fF
C39 a_134_73# a_340_202# 0.00fF
C40 a_174_531# ENb 0.01fF
C41 a_258_74# a_248_427# 0.00fF
C42 a_248_475# Out 0.40fF
C43 a_174_531# Out 0.24fF
C44 a_127_486# a_248_475# 0.02fF
C45 a_462_191# Out 0.04fF
C46 a_127_486# a_174_531# 0.13fF
C47 Down VDD 0.05fF
C48 a_462_143# Out 0.02fF
C49 a_134_73# a_248_427# 0.09fF
C50 a_258_74# Down 0.00fF
C51 Down Up 0.15fF
C52 a_174_531# a_248_475# 2.05fF
C53 Up GND 1.42fF
C54 Out GND 2.98fF
C55 VDD GND 0.08fF
C56 a_462_143# GND 0.58fF
C57 a_462_191# GND 0.58fF
C58 a_340_202# GND 0.31fF
C59 a_258_74# GND 0.51fF
C60 a_134_73# GND 2.42fF
C61 a_248_427# GND 0.69fF
C62 a_248_475# GND 0.49fF
C63 a_127_486# GND 0.24fF
C64 a_174_531# GND 1.49fF

*XM1000 VDD a_3_497# a_3_497# VDD sky130_fd_pr__pfet_01v8 w=44 l=15
*+  ad=1452 pd=95.1527 as=1452 ps=154
*XM1001 GND a_340_202# a_462_191# GND sky130_fd_pr__nfet_01v8 w=480 l=15
*+  ad=15785.8 pd=1205.27 as=10416.3 ps=592.994
*XM1002 a_124_486# a_134_73# Out VDD sky130_fd_pr__pfet_01v8 w=42 l=15
*+  ad=1103.53 pd=67.5667 as=1386 ps=150
*XM1003 VDD a_3_497# a_124_486# VDD sky130_fd_pr__pfet_01v8 w=1800 l=15
*+  ad=59400 pd=3892.61 as=47294.2 ps=2895.72
*XM1004 a_134_73# Down GND GND sky130_fd_pr__nfet_01v8 w=36 l=15
*+  ad=1188 pd=138 as=1183.94 ps=90.395
*XM1005 a_258_74# Up GND GND sky130_fd_pr__nfet_01v8 w=36 l=15
*+  ad=1188 pd=138 as=1183.94 ps=90.395
*XM1006 GND a_340_202# a_340_202# GND sky130_fd_pr__nfet_01v8 w=44 l=15
*+  ad=1447.03 pd=110.483 as=1452 ps=154
*XM1007 a_462_143# a_462_143# VDD VDD sky130_fd_pr__pfet_01v8 w=42 l=15
*+  ad=1386 pd=150 as=1386 ps=90.8276
*XM1008 a_124_486# Down a_124_438# VDD sky130_fd_pr__pfet_01v8 w=540 l=15
*+  ad=14188.3 pd=868.715 as=17820 ps=1146
*XM1009 a_124_438# a_124_438# GND GND sky130_fd_pr__nfet_01v8 w=42 l=15
*+  ad=1386 pd=150 as=1381.26 ps=105.461
*XM1010 Out Up a_462_191# GND sky130_fd_pr__nfet_01v8 w=42 l=15
*+  ad=1386 pd=150 as=911.424 ps=51.887
*XM1011 a_462_191# a_258_74# a_462_143# GND sky130_fd_pr__nfet_01v8 w=540 l=15
*+  ad=11718.3 pd=667.119 as=17820 ps=1146
*XM1012 a_258_74# Up VDD VDD sky130_fd_pr__pfet_01v8 w=72 l=15
*+  ad=2376 pd=210 as=2376 ps=155.704
*XM1013 a_134_73# Down VDD VDD sky130_fd_pr__pfet_01v8 w=72 l=15
*+  ad=2376 pd=210 as=2376 ps=155.704
*C0 a_124_486# a_134_73# 0.02fF
*C1 a_124_486# a_3_497# 0.02fF
*C2 VDD a_258_74# 0.18fF
*C3 VDD a_340_202# 0.02fF
*C4 a_3_497# Down 0.03fF
*C5 Down a_134_73# 0.07fF
*C6 a_258_74# a_462_191# 0.00fF
*C7 a_462_191# a_340_202# 0.01fF
*C8 a_258_74# a_340_202# 0.13fF
*C9 Out a_124_486# 0.32fF
*C10 Out a_462_143# 0.02fF
*C11 Up a_134_73# 0.43fF
*C12 a_134_73# a_124_438# 0.01fF
*C13 VDD a_134_73# 0.17fF
*C14 VDD a_3_497# 0.09fF
*C15 a_134_73# a_462_191# 0.01fF
*C16 Out Up 0.03fF
*C17 a_258_74# a_134_73# 0.05fF
*C18 a_134_73# a_340_202# 0.00fF
*C19 VDD Out 0.98fF
*C20 Out a_462_191# 0.04fF
*C21 Up a_462_143# 0.08fF
*C22 Up Down 0.15fF
*C23 a_124_486# a_124_438# 0.58fF
*C24 a_124_438# a_462_143# 0.01fF
*C25 VDD a_124_486# 2.64fF
*C26 Down a_124_438# 0.00fF
*C27 VDD a_462_143# 0.23fF
*C28 a_462_143# a_462_191# 0.72fF
*C29 VDD Down 0.05fF
*C30 a_258_74# a_462_143# 0.02fF
*C31 a_258_74# Down 0.00fF
*C32 VDD Up 0.21fF
*C33 Up a_462_191# 0.09fF
*C34 VDD a_124_438# 0.26fF
*C35 a_258_74# Up 0.09fF
*C36 Up a_340_202# 0.02fF
*C37 a_124_438# a_462_191# 0.02fF
*C38 VDD a_462_191# 0.13fF
*C39 Up GND 1.42fF
*C40 Out GND 2.69fF
*C41 VDD GND 0.08fF
*C42 a_462_143# GND 0.58fF
*C43 a_462_191# GND 0.58fF
*C44 a_340_202# GND 0.31fF
*C45 a_258_74# GND 0.51fF
*C46 a_134_73# GND 2.37fF
*C47 a_124_438# GND 0.70fF
*C48 a_124_486# GND 0.46fF
*C49 a_3_497# GND 0.24fF


c50 Out GND 6fF
v1 VDD GND 1.8
v2 Up 0 PULSE 0 1.8 4ns 6p 6p 100n 200n
v3 Down 0 0 
v4 ENb 0 1.8

.ic v(Out) = 0
.control
tran 1n 5u
plot v(Up) v(Down) v(Out)+2
.endc

