* SPICE3 file created from FD.ext - technology: sky130A
.include sky130nm.lib
.option scale=0.01u

XM1000 a_79_75# Clk_In VDD VDD sky130_fd_pr__pfet_01v8 w=72 l=15
+  ad=2088 pd=202 as=1824 ps=170.667
XM1001 GND a_597_66# a_787_62# GND sky130_fd_pr__nfet_01v8 w=36 l=15
+  ad=912 pd=110.667 as=1116 ps=134
XM1002 a_332_67# a_79_75# a_190_75# VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=126.737
XM1003 a_463_74# a_332_67# VDD VDD sky130_fd_pr__pfet_01v8 w=72 l=15
+  ad=2088 pd=217.263 as=1824 ps=170.667
XM1004 a_79_75# Clk_In GND GND sky130_fd_pr__nfet_01v8 w=36 l=15
+  ad=1044 pd=130 as=912 ps=110.667
XM1005 a_190_75# a_143_127# GND GND sky130_fd_pr__nfet_01v8 w=36 l=15
+  ad=1044 pd=106.8 as=912 ps=110.667
XM1006 a_143_127# a_597_66# VDD VDD sky130_fd_pr__pfet_01v8 w=72 l=15
+  ad=2088 pd=202 as=1824 ps=170.667
XM1007 a_597_66# a_79_75# a_463_74# GND sky130_fd_pr__nfet_01v8 w=84 l=15
+  ad=2436 pd=226 as=2436 ps=249.2
XM1008 a_143_127# a_597_66# GND GND sky130_fd_pr__nfet_01v8 w=36 l=15
+  ad=1044 pd=130 as=912 ps=110.667
XM1009 VDD a_597_66# a_787_62# VDD sky130_fd_pr__pfet_01v8 w=72 l=15
+  ad=1824 pd=170.667 as=2232 ps=206
XM1010 Clk_Out a_787_62# GND GND sky130_fd_pr__nfet_01v8 w=36 l=15
+  ad=1044 pd=130 as=912 ps=110.667
XM1011 a_190_75# a_143_127# VDD VDD sky130_fd_pr__pfet_01v8 w=72 l=15
+  ad=2088 pd=217.263 as=1824 ps=170.667
XM1012 a_332_67# Clk_In a_190_75# GND sky130_fd_pr__nfet_01v8 w=84 l=15
+  ad=2436 pd=226 as=2436 ps=249.2
XM1013 a_597_66# Clk_In a_463_74# VDD sky130_fd_pr__pfet_01v8 w=42 l=15
+  ad=1218 pd=142 as=1218 ps=126.737
XM1014 Clk_Out a_787_62# VDD VDD sky130_fd_pr__pfet_01v8 w=72 l=15
+  ad=2143 pd=204 as=1824 ps=170.667
XM1015 a_463_74# a_332_67# GND GND sky130_fd_pr__nfet_01v8 w=36 l=15
+  ad=1044 pd=106.8 as=912 ps=110.667
C0 VDD a_143_127# 0.38fF
C1 VDD Clk_Out 0.10fF
C2 a_332_67# a_463_74# 0.12fF
C3 a_332_67# a_190_75# 0.28fF
C4 Clk_Out a_143_127# 0.04fF
C5 VDD a_79_75# 0.37fF
C6 Clk_In a_597_66# 0.17fF
C7 a_79_75# a_143_127# 0.84fF
C8 VDD a_463_74# 0.19fF
C9 VDD a_190_75# 0.22fF
C10 a_463_74# a_143_127# 0.21fF
C11 a_190_75# a_143_127# 0.20fF
C12 VDD a_787_62# 0.21fF
C13 a_463_74# a_79_75# 0.12fF
C14 a_787_62# a_143_127# 0.12fF
C15 a_190_75# a_79_75# 0.29fF
C16 Clk_Out a_787_62# 0.17fF
C17 Clk_In a_332_67# 0.14fF
C18 a_463_74# a_190_75# 0.04fF
C19 a_332_67# a_597_66# 0.02fF
C20 VDD Clk_In 1.10fF
C21 VDD a_597_66# 0.19fF
C22 Clk_In a_143_127# 1.17fF
C23 a_597_66# a_143_127# 0.64fF
C24 Clk_Out a_597_66# 0.01fF
C25 Clk_In a_79_75# 0.60fF
C26 a_597_66# a_79_75# 0.03fF
C27 Clk_In a_463_74# 0.20fF
C28 Clk_In a_190_75# 0.30fF
C29 a_463_74# a_597_66# 0.32fF
C30 VDD a_332_67# 0.15fF
C31 Clk_In a_787_62# 0.01fF
C32 a_332_67# a_143_127# 0.19fF
C33 a_787_62# a_597_66# 0.44fF
C34 a_332_67# a_79_75# 0.16fF
C35 VDD GND 3.76fF
C36 a_787_62# GND 0.47fF
C37 a_597_66# GND 1.33fF
C38 a_463_74# GND 0.36fF
C39 a_332_67# GND 0.44fF
C40 a_190_75# GND 0.38fF
C41 a_79_75# GND 1.06fF
C42 a_143_127# GND 0.99fF

v1 VDD 0 1.8
v2 Clk_In 0 PULSE 0 1.8 1p 6p 6p 5ns 10ns

.ic v(Clk_Out) = 1
.control 
tran 0.1ns 0.2us
plot v(Clk_In)+2 v(Clk_Out)
.endc

